US08124610B2
1-(4-phenylbutyl)-N-(thiazol-2-yl)-1H-indazole-5-sulfonamide
Additional compounds of the invention, which have been synthesized according to the methods described herein are set forth below and listed in Table IV: 4-(5-tert-butyl-4-methylthiazol-2-ylamino)-N-(thiazol-2-yl)benzenesulfonamide; 4-(5-tert-butyl-4-methylthiazol-2-ylamino)-2-fluoro-N-(thiazol-2-yl)benzenesulfonamide; 4-(1-tert-butyl-3-(4-chlorobenzyl)-1H-pyrazol-5-ylamino)-2-fluoro-N-(thiazol-2-yl)benzenesulfonamide; 2-oxo-N-(thiazol-2-yl)-1-(4-(4-(trifluoromethyl)benzyl)thiazol-2-yl)indoline-5-sulfonamide; 4-(4-cyclopropylpyrimidin-2-ylamino)-2-fluoro-N-(thiazol-2-yl)benzenesulfonamide; 5-(3-(4-chlorobenzyl)-1-methyl-1H-pyrazol-5-ylamino)-N-(thiazol-2-yl)pyrimidine-2-sulfonamide; 2-(4-tert-butylthiazol-2-ylamino)-4-fluoro-N-(thiazol-2-yl)-2,3-dihydro-1H-indene-5-sulfonamide; 4-fluoro-2-(4-neopentylthiazol-2-ylamino)-3-oxo-N-(thiazol-2-yl)-2,3-dihydro-1H-indene-5-sulfonamide; 2-(3-(4-fluorobenzyl)isoxazol-5-yl)-N-(thiazol-2-yl)-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide; 2-(3-(4-fluorobenzyl)isoxazol-5-yl)-4-oxo-N-(thiazol-2-yl)-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide; 2-((4-cyclopropylthiazol-2-yl)(4-(N-thiazol-2-ylsulfamoyl)phenyl)amino)acetamide.

reactant | 4-(5-tert-butyl-4-methylthiazol-2-ylamino)-N-(thiazol-2-yl)benzenesulfonamide | C(C)(C)(C)C1=C(N=C(S1)NC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)C | C17H20N4O2S3
reactant | 4-(5-tert-butyl-4-methylthiazol-2-ylamino)-2-fluoro-N-(thiazol-2-yl)benzenesulfonamide | C(C)(C)(C)C1=C(N=C(S1)NC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F)C | C17H19FN4O2S3
reactant | 4-(1-tert-butyl-3-(4-chlorobenzyl)-1H-pyrazol-5-ylamino)-2-fluoro-N-(thiazol-2-yl)benzenesulfonamide | C(C)(C)(C)N1N=C(C=C1NC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F)CC1=CC=C(C=C1)Cl | C23H23ClFN5O2S2
reactant | 2-oxo-N-(thiazol-2-yl)-1-(4-(4-(trifluoromethyl)benzyl)thiazol-2-yl)indoline-5-sulfonamide | O=C1N(C2=CC=C(C=C2C1)S(=O)(=O)NC=1SC=CN1)C=1SC=C(N1)CC1=CC=C(C=C1)C(F)(F)F | C22H15F3N4O3S3
reactant | 4-(4-cyclopropylpyrimidin-2-ylamino)-2-fluoro-N-(thiazol-2-yl)benzenesulfonamide | C1(CC1)C1=NC(=NC=C1)NC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F | C16H14FN5O2S2
reactant | 5-(3-(4-chlorobenzyl)-1-methyl-1H-pyrazol-5-ylamino)-N-(thiazol-2-yl)pyrimidine-2-sulfonamide | ClC1=CC=C(CC2=NN(C(=C2)NC=2C=NC(=NC2)S(=O)(=O)NC=2SC=CN2)C)C=C1 | C18H16ClN7O2S2
reactant | 2-(4-tert-butylthiazol-2-ylamino)-4-fluoro-N-(thiazol-2-yl)-2,3-dihydro-1H-indene-5-sulfonamide | C(C)(C)(C)C=1N=C(SC1)NC1CC2=CC=C(C(=C2C1)F)S(=O)(=O)NC=1SC=CN1 | C19H21FN4O2S3
reactant | 4-fluoro-2-(4-neopentylthiazol-2-ylamino)-3-oxo-N-(thiazol-2-yl)-2,3-dihydro-1H-indene-5-sulfonamide | FC1=C2C(C(CC2=CC=C1S(=O)(=O)NC=1SC=CN1)NC=1SC=C(N1)CC(C)(C)C)=O | C20H21FN4O3S3
reactant | 2-(3-(4-fluorobenzyl)isoxazol-5-yl)-N-(thiazol-2-yl)-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide | FC1=CC=C(CC2=NOC(=C2)N2CC3=CC(=CC=C3CC2)S(=O)(=O)NC=2SC=CN2)C=C1 | C22H19FN4O3S2
reactant | 2-(3-(4-fluorobenzyl)isoxazol-5-yl)-4-oxo-N-(thiazol-2-yl)-1,2,3,4-tetrahydroisoquinoline-7-sulfonamide | FC1=CC=C(CC2=NOC(=C2)N2CC3=CC(=CC=C3C(C2)=O)S(=O)(=O)NC=2SC=CN2)C=C1 | C22H17FN4O4S2
reactant | 2-((4-cyclopropylthiazol-2-yl)(4-(N-thiazol-2-ylsulfamoyl)phenyl)amino)acetamide | C1(CC1)C=1N=C(SC1)N(CC(=O)N)C1=CC=C(C=C1)S(NC=1SC=CN1)(=O)=O | C17H17N5O3S3
product | 1-(4-phenylbutyl)-N-(thiazol-2-yl)-1H-indazole-5-sulfonamide | C1(=CC=CC=C1)CCCCN1N=CC2=CC(=CC=C12)S(=O)(=O)NC=1SC=CN1 | C20H20N4O2S2
